US08022062B2
N-(tert-Butoxycarbonyl)-4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamine:
Add manganese dioxide (1.132 g, 13 mmol) to a solution of N-(tert-butoxycarbonyl)-3-fluoro-4-(1-hydroxy-3,3-dimethyl-butyl)-benzylamine (283 mg, 0.87 mmol) in anhydrous 1,4-dioxane (11.5 mL) at room temperature. Heat the reaction mixture at 70° C. overnight. Filter the reaction mixture over Celite® and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (4:1) to obtain the desired intermediate as an oil (216 mg, 77%).

reactant | N-(tert-butoxycarbonyl)-3-fluoro-4-(1-hydroxy-3,3-dimethyl-butyl)-benzylamine | 0.87 mmol, 283 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)C(CC(C)(C)C)O)F | C18H28FNO3
solvent | 1,4-dioxane | 11.5 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 13 mmol, 1.132 g | [O-2].[O-2].[Mn+4]
product | N-(tert-Butoxycarbonyl)-4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamine | 216 mg, 77% | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)C(CC(C)(C)C)=O)F | C18H26FNO3
